US07495102B2
Preparation of N′-(4-{4-(2-{3-[(dimethylamino)methyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1-[2-(methylamino)ethyl]-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea
To 1,1-dimethylethyl {2-[3-(4-{[(dimethylamino)carbonyl]amino}phenyl)-4-(2-{3-[(dimethylamino)methyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]ethyl}methylcarbamate (1.05 g, 1.65 mmol) was added 25% TFA in CH2Cl2 (25 mL).

reactant | 1,1-dimethylethyl {2-[3-(4-{[(dimethylamino)carbonyl]amino}phenyl)-4-(2-{3-[(dimethylamino)methyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]ethyl}methylcarbamate | 1.65 mmol, 1.05 g | CN(C(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC(=C2)C2=CC(=CC=C2)CN(C)C)CCN(C(OC(C)(C)C)=O)C)C | C36H44N8O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | N′-(4-{4-(2-{3-[(dimethylamino)methyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1-[2-(methylamino)ethyl]-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea | CN(C)CC=1C=C(C=CC1)C1=CC=2C(=NC=CC2C=2C(=NN(C2)CCNC)C2=CC=C(C=C2)NC(N(C)C)=O)N1 | C31H36N8O
